US09302988B2
Step 1: [3-(4-Chlorophenyl)-1-[2-(4-fluoro-phenoxy)-ethyl]-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl]-morpholin-4-yl-methanone (SC-51)
(3-(4-Chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone [for synthesis see SC-25] (130 mg, 0.349 mmol) was dissolved in dry MeCN (4 mL). The solution was mixed with K2CO3 (120 mg, 0.872 mmol) and KI (8.7 mg, 0.052 mmol), followed by addition of 4-fluorophenoxy-ethylbromide (153 mg, 0.697 mmol). The reaction mixture was stirred vigorously at 80° C. for 2 d. The temperature was lowered to room temperature; the reaction mixture was combined with the reaction mixture of another identical reaction (starting from 20 mg or 0.054 mmol (3-(4-chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone), followed by concentration in vacuo. The residue was used for flash chromatography (silica, gradient heptane/EtOAc, 1:0→1:1). The product was purified by preparative TLC (silica, DCM twice) to result in 60 mg (29%) of SC-51.

reactant | (3-(4-Chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone | ClC1=CC=C(C=C1)C1=C(NC(=C1C)C(F)(F)F)C(=O)N1CCOCC1 | C17H16ClF3N2O2
reactant | K2CO3 | 0.872 mmol, 120 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorophenoxy-ethylbromide | 0.697 mmol, 153 mg | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
reactant | (3-(4-chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone | 0.054 mmol | ClC1=CC=C(C=C1)C1=C(NC(=C1C)C(F)(F)F)C(=O)N1CCOCC1 | C17H16ClF3N2O2
solvent | MeCN | 4 mL | CC#N | C2H3N
product | [3-(4-Chlorophenyl)-1-[2-(4-fluoro-phenoxy)-ethyl]-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl]-morpholin-4-yl-methanone | ClC1=CC=C(C=C1)C1=C(N(C(=C1C)C(F)(F)F)CCOC1=CC=C(C=C1)F)C(=O)N1CCOCC1 | C25H23ClF4N2O3
